US05760041
A solution of 0.67 g of 2,4-hexadienoic acid in 10 ml of tetrahydrofuran was cooled in an ice bath. A 0.79 ml portion of isobutyl chloroformate followed by a 0.66 ml portion of N-methyl morpholine were added. After about 1 minute a solution of 1.6 g of N-(3-bromophenyl)-4,6-quinazolindiamine in 10 ml of pyridine was added. The reaction was allowed to come to room temperature and stir overnight. The solvents were removed at reduced pressure and the solid was recrystallized to give 1.0 g of N-[4-[(3-bromophenyl)amino]-6-quinazolinyl]-2,4-hexadienamide: mp=258°-260° C.

reactant | 2,4-hexadienoic acid | 0.67 g | C(C=CC=CC)(=O)O | C6H8O2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 1.6 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-[(3-bromophenyl)amino]-6-quinazolinyl]-2,4-hexadienamide | 1.0 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=CC=CC)=O | C20H17BrN4O
